US06451781B1
g) Ethyl 2-methyl-3-(3,4,5-trifluorophenyl)acrylate
4.3 ml of triethyl 2-phosphonopropionate are dissolved in 30 ml of anhydrous THF and 12.5 ml of a 1.6 N solution of n-butyllithium in hexane are added dropwise at 0° C. The mixture is stirred at RT for 15 minutes and a solution of 3.2 g of 3,4,5-trifluorobenzaldehyde in 8 ml of anhydrous THF is then added dropwise. It is stirred at RT for one hour and allowed to stand at RT for 16 hours. The reaction mixture is diluted with 300 ml of water, 30 ml of a saturated aqueous Na2CO3 solution are added and it is extracted 3 times using 100 ml of EA each time. The extract is dried over Na2SO4 and the solvent is removed in vacuo. Chromatography on silica gel using EA/HEP 1:8 yields 3.8 g if colorless crystals; m.p. 54° C.

reactant | triethyl 2-phosphonopropionate | 4.3 ml | CCOC(=O)C(C)P(=O)(OCC)OCC | C9H19O5P
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3,4,5-trifluorobenzaldehyde | 3.2 g | FC=1C=C(C=O)C=C(C1F)F | C7H3F3O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | water | 300 ml | O | H2O
solvent | Na2CO3 | 30 ml | C(=O)([O-])[O-].[Na+].[Na+]
product | Ethyl 2-methyl-3-(3,4,5-trifluorophenyl)acrylate | CC(C(=O)OCC)=CC1=CC(=C(C(=C1)F)F)F | C12H11F3O2
